US04981861
400 ml of 30% hydrogen peroxide were added dropwise at room temperature to 321.5 g of 2,5-lutidine (2,5-dimethylpyridine) in 1800 ml of glacial acetic acid. The solution was stirred at 80° overnight, then cooled to 40° , treated once more with 400 ml of 30% hydrogen peroxide and heated to 80° for a further 24 hours. After evaporation in vacuo the residue was dissolved in 300 ml of water. The solution was made basic with concentrated sodium hydroxide solution while cooling, saturated with sodium chloride and extracted three times with 1 1 of methylene chloride. The organic extracts were dried over sodium sulfate and evaporated in vacuo. There was obtained 2,5-dimethylpyridine 1-oxide in the form of an oil.

reactant | hydrogen peroxide | 400 ml | OO | H2O2
reactant | 2,5-lutidine | N1=C(C=CC(=C1)C)C | C7H9N
reactant | hydrogen peroxide | 400 ml | OO | H2O2
solvent | acetic acid | 1800 ml | C(C)(=O)O | C2H4O2
product | 2,5-dimethylpyridine 1-oxide | CC1=[N+](C=C(C=C1)C)[O-] | C7H9NO
